US08222430B2
Synthesis of (4-chloro-phenyl)-{3-[1-phenyl sulfanyl-(E)-methylidene]-3,4,4a,5,6,8a-hexahydro-thiochromene-(2Z)-ylidene}-amine
65 mg of trimethylamine and 1 ml of DMF solution including {3-[1-chloro-(E)-methylidene]-3,4,4a,5,6,8a-hexahydro-thiochromene-(2Z)-ylidene}-(4-chloro-phenyl)-amine were added to 2 ml of DMF solution including 47 mg of thiophenol at 0° C. The resulting solution was stirred at room temperature for an additional 30 minutes, and added with water, and then extracted with ethyl acetate. The organic layer was washed with brine, dried with anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 0.17 g of the title compound.

reactant | trimethylamine | 65 mg | CN(C)C | C3H9N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | {3-[1-chloro-(E)-methylidene]-3,4,4a,5,6,8a-hexahydro-thiochromene-(2Z)-ylidene}-(4-chloro-phenyl)-amine | Cl\C=C/1\C(\SC2C=CCCC2C1)=N\C1=CC=C(C=C1)Cl | C16H15Cl2NS
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | thiophenol | 47 mg | C1(=CC=CC=C1)S | C6H6S
solvent | water | O | H2O
product | (4-chloro-phenyl)-{3-[1-phenyl sulfanyl-(E)-methylidene]-3,4,4a,5,6,8a-hexahydro-thiochromene-(2Z)-ylidene}-amine | 0.17 g | ClC1=CC=C(C=C1)\N=C\1/SC2C=CCCC2C/C1=C\SC1=CC=CC=C1 | C22H20ClNS2
